* Library of Advanced Linear Devices, Inc. definitions
*
* Copyright 2013 Advanced Linear Devices, Inc.
*   Neither this library nor any part may be copied without the express
*   written consent of Advanced Linear Devices, Inc.
* PSPICE version
* $Revision:  2.0  $
* $Date:    6 Feb 2013 00:00:00  $
* $By:    A.P  $
* -----------------------------------------------------------------------------
*
* This library of models and macromodels is being supplied to users as an aid to
* circuit design. While it reflects reasonably close similarity to the actual device
* in terms of performance, it is not suggested as a replacement for bread-
* boarding. Simulation should be used as a forerunner or a supplement to
* traditional lab testing.
*
* Users should very carefully note the following factors regarding these 
* models:
*
*     Model performance in general will reflect typical baseline specs for a
*     given device, and certain aspects of performance may not be modeled
*     fully.
*
*     While reasonable care has been taken in their preparation, we cannot be
*     responsible for correct application on any and all computer systems.
*
*     In all cases, the current data sheet information for a given real device
*     is your final design guideline, and is the only actual performance
*     guarantee.  For further technical information, refer to individual device
*     data sheets.
*
*     Model users are hereby notified that these models are supplied "as is",
*     with no direct or implied responsibility on the part of Advanced Linear
*     Devices for their operation within a customer circuit or system. Further,
*     ALD reserves the right to change these models without prior notice. 
*
*     The macromodels listed in this library represent typical performance 
*     characteristics, without offset (Vos) adjustment, or other 
*     parameters that would allow for Monte Carlo simulation of these circuits. 
*     
* -----------------------------------------------------------------------------
*    
* Your feedback and suggestions on these (and future) models will be
* appreciated.
*
*
* Advanced Linear Devices, Inc.
* Customer Support Group
* 415 Tasman Drive
* Sunnyvale, California. 94089
* Tel: (408) 747-1155 
* Fax: (408) 747-1286
* techsupport@aldinc.com
* -----------------------------------------------------------------------------
*
* 11XXYY.lib
*----------------------------------
* N channel TRANSISTORS
*----------------------------------
*
*          listing of single integrated 11xxyy transistors.
*          Five terminal N-channel transistors.
*   110814 VGS(TH)=1.40V transistor
*   110808 VGS(TH)=0.80V transistor
*   110804 VGS(TH)=0.40V transistor
*   110802 VGS(TH)=0.20V transistor
*   110800 VGS(TH)=0.00V transistor
*   114804 VGS(TH)=-0.40V transistor
*   114813 VGS(TH)=-1.30V transistor
*   114835 VGS(TH)=-3.50V transistor
*   11xxyy VGS(TH)=variable VGS(TH) transistor

*              d g s b v+
.subckt 110814 1 2 3 4 5 params: vtn=1.363V
m1 1 2 3 4 ncg l=7.8e-6 w=138e-6 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                       nrd=0.3 nrs=1 nrg=25 nrb=35
.param vtx={vtn} cox=1.0 ires=0.41 pox=1.0 M=1
.model ncg  nmos  (level=2
+			 gamma=0.035 lot/4/uniform=-.22 dev/uniform=.04
+			 vto={vtn}   lot/2/uniform=.2   dev/uniform=19e-3
+             	 Uo=650      lot/3/uniform=40   dev/uniform=5
+             	 Ucrit=0.7e4 Uexp=.1 Vmax=1.6e5
+             	 phi=0.65 tpg=+1
+             	 nsub={1e16*ires} neff={10*ires} nss=0.7e11 nfs=4.4e11
+             	 tox=(0.055u*cox) lot/8/uniform=9.1% dev/uniform=.05%
+             	 Cgso={.94n*cox} Cgdo={.59n*cox} Cgbo={.138n*pox} Xqc=.42
+             	 cj=.39m cjsw=264p xj=1.0u
+			 ld=0.8u lot/uniform=.19 dev/uniform=.02 
+			 wd=1.05u lot/uniform=.42 dev/uniform=.1
+            	 pb=.9 js=20e-6  mj=.5 mjsw=0.18
+             	 kf=.75e-28 rsh=10 lot/1/uniform=4 dev/uniform=.5)
dbv 4 5 dps 0.8e-8
dbd 4 1 dps 0.8e-8
dbs 4 3 dps 0.8e-8
dbg 4 2 dps 0.8e-8
dgv 2 5 dps 0.8e-8
.model dps D (Is=2.61e-7
+             Isr=1.0e-5
+             Bv=34 Ibv=1e+4
+             Rs=2.74e-7 trs1=3e-3
+             Cjo=1.3e-4 )
.ends
*-----------------------------------------------------------------------------------------
*              d g s b v+
.subckt 110808 1 2 3 4 5 params: vtn=0.763
m1 1 2 3 4 ncg l=7.8e-6 w=138e-6 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                       nrd=0.3 nrs=1 nrg=25 nrb=35
.param vtx={vtn} cox=1.0 ires=0.41 pox=1.0 M=1
.model ncg  nmos  (level=2
+			 gamma=0.035 lot/4/uniform=-.22 dev/uniform=.04
+			 vto={vtn}   lot/2/uniform=.2   dev/uniform=19e-3
+             	 Uo=650      lot/3/uniform=40   dev/uniform=5
+             	 Ucrit=0.7e4 Uexp=.1 Vmax=1.6e5
+             	 phi=0.65 tpg=+1
+             	 nsub={1e16*ires} neff={10*ires} nss=0.7e11 nfs=4.4e11
+             	 tox=(0.055u*cox) lot/8/uniform=9.1% dev/uniform=.05%
+             	 Cgso={.94n*cox} Cgdo={.59n*cox} Cgbo={.138n*pox} Xqc=.42
+             	 cj=.39m cjsw=264p xj=1.0u
+			 ld=0.8u lot/uniform=.19 dev/uniform=.02 
+			 wd=1.05u lot/uniform=.42 dev/uniform=.1
+            	 pb=.9 js=20e-6  mj=.5 mjsw=0.18
+             	 kf=.75e-28 rsh=10 lot/1/uniform=4 dev/uniform=.5)
dbv 4 5 dps 0.8e-8
dbd 4 1 dps 0.8e-8
dbs 4 3 dps 0.8e-8
dbg 4 2 dps 0.8e-8
dgv 2 5 dps 0.8e-8
.ends
*-----------------------------------------------------------------------------------------*              d g s b v+
.subckt 110804 1 2 3 4 5 params: vtn=0.363
m1 1 2 3 4 ncg l=7.8e-6 w=138e-6 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                       nrd=0.3 nrs=1 nrg=25 nrb=35
.param vtx={vtn} cox=1.0 ires=0.41 pox=1.0 M=1
.model ncg  nmos  (level=2
+			 gamma=0.035 lot/4/uniform=-.22 dev/uniform=.04
+			 vto={vtn}   lot/2/uniform=.2   dev/uniform=19e-3
+             	 Uo=650      lot/3/uniform=40   dev/uniform=5
+             	 Ucrit=0.7e4 Uexp=.1 Vmax=1.6e5
+             	 phi=0.65 tpg=+1
+             	 nsub={1e16*ires} neff={10*ires} nss=0.7e11 nfs=4.4e11
+             	 tox=(0.055u*cox) lot/8/uniform=9.1% dev/uniform=.05%
+             	 Cgso={.94n*cox} Cgdo={.59n*cox} Cgbo={.138n*pox} Xqc=.42
+             	 cj=.39m cjsw=264p xj=1.0u
+			 ld=0.8u lot/uniform=.19 dev/uniform=.02 
+			 wd=1.05u lot/uniform=.42 dev/uniform=.1
+            	 pb=.9 js=20e-6  mj=.5 mjsw=0.18
+             	 kf=.75e-28 rsh=10 lot/1/uniform=4 dev/uniform=.5)
dbv 4 5 dps 0.8e-8
dbd 4 1 dps 0.8e-8
dbs 4 3 dps 0.8e-8
dbg 4 2 dps 0.8e-8
dgv 2 5 dps 0.8e-8
.ends
*-----------------------------------------------------------------------------------------*              d g s b v+
.subckt 110802 1 2 3 4 5 params: vtn=0.163
m1 1 2 3 4 ncg l=7.8e-6 w=138e-6 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                       nrd=0.3 nrs=1 nrg=25 nrb=35
.param vtx={vtn} cox=1.0 ires=0.41 pox=1.0 M=1
.model ncg  nmos  (level=2
+			 gamma=0.035 lot/4/uniform=-.22 dev/uniform=.04
+			 vto={vtn}   lot/2/uniform=.2   dev/uniform=19e-3
+             	 Uo=650      lot/3/uniform=40   dev/uniform=5
+             	 Ucrit=0.7e4 Uexp=.1 Vmax=1.6e5
+             	 phi=0.65 tpg=+1
+             	 nsub={1e16*ires} neff={10*ires} nss=0.7e11 nfs=4.4e11
+             	 tox=(0.055u*cox) lot/8/uniform=9.1% dev/uniform=.05%
+             	 Cgso={.94n*cox} Cgdo={.59n*cox} Cgbo={.138n*pox} Xqc=.42
+             	 cj=.39m cjsw=264p xj=1.0u
+			 ld=0.8u lot/uniform=.19 dev/uniform=.02 
+			 wd=1.05u lot/uniform=.42 dev/uniform=.1
+            	 pb=.9 js=20e-6  mj=.5 mjsw=0.18
+             	 kf=.75e-28 rsh=10 lot/1/uniform=4 dev/uniform=.5)
dbv 4 5 dps 0.8e-8
dbd 4 1 dps 0.8e-8
dbs 4 3 dps 0.8e-8
dbg 4 2 dps 0.8e-8
dgv 2 5 dps 0.8e-8
.ends
*-----------------------------------------------------------------------------------------*              d g s b v+
.subckt 110800 1 2 3 4 5 params: vtn=-0.037
m1 1 2 3 4 ncg l=7.8e-6 w=138e-6 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                       nrd=0.3 nrs=1 nrg=25 nrb=35
.param vtx={vtn} cox=1.0 ires=0.41 pox=1.0 M=1
.model ncg  nmos  (level=2
+			 gamma=0.035 lot/4/uniform=-.22 dev/uniform=.04
+			 vto={vtn}   lot/2/uniform=.2   dev/uniform=19e-3
+             	 Uo=650      lot/3/uniform=40   dev/uniform=5
+             	 Ucrit=0.7e4 Uexp=.1 Vmax=1.6e5
+             	 phi=0.65 tpg=+1
+             	 nsub={1e16*ires} neff={10*ires} nss=0.7e11 nfs=4.4e11
+             	 tox=(0.055u*cox) lot/8/uniform=9.1% dev/uniform=.05%
+             	 Cgso={.94n*cox} Cgdo={.59n*cox} Cgbo={.138n*pox} Xqc=.42
+             	 cj=.39m cjsw=264p xj=1.0u
+			 ld=0.8u lot/uniform=.19 dev/uniform=.02 
+			 wd=1.05u lot/uniform=.42 dev/uniform=.1
+            	 pb=.9 js=20e-6  mj=.5 mjsw=0.18
+             	 kf=.75e-28 rsh=10 lot/1/uniform=4 dev/uniform=.5)
dbv 4 5 dps 0.8e-8
dbd 4 1 dps 0.8e-8
dbs 4 3 dps 0.8e-8
dbg 4 2 dps 0.8e-8
dgv 2 5 dps 0.8e-8
.ends
*-----------------------------------------------------------------------------------------*              d g s b v+
.subckt 114804 1 2 3 4 5 params: vtn=-0.4811
m1 1 2 3 4 ncg l=7.8e-6 w=138e-6 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                       nrd=0.3 nrs=1 nrg=25 nrb=35
.param vtx={vtn} cox=1.0 ires=0.41 pox=1.0 M=1
.model ncg  nmos  (level=2
+			 gamma=0.035 lot/4/uniform=-.22 dev/uniform=.04
+			 vto={vtn}   lot/2/uniform=.2   dev/uniform=19e-3
+             	 Uo=650      lot/3/uniform=40   dev/uniform=5
+             	 Ucrit=0.7e4 Uexp=.1 Vmax=1.6e5
+             	 phi=0.65 tpg=+1
+             	 nsub={1e16*ires} neff={10*ires} nss=0.7e11 nfs=4.4e11
+             	 tox=(0.055u*cox) lot/8/uniform=9.1% dev/uniform=.05%
+             	 Cgso={.94n*cox} Cgdo={.59n*cox} Cgbo={.138n*pox} Xqc=.42
+             	 cj=.39m cjsw=264p xj=1.0u
+			 ld=0.8u lot/uniform=.19 dev/uniform=.02 
+			 wd=1.05u lot/uniform=.42 dev/uniform=.1
+            	 pb=.9 js=20e-6  mj=.5 mjsw=0.18
+             	 kf=.75e-28 rsh=10 lot/1/uniform=4 dev/uniform=.5)
dbv 4 5 dps 0.8e-8
dbd 4 1 dps 0.8e-8
dbs 4 3 dps 0.8e-8
dbg 4 2 dps 0.8e-8
dgv 2 5 dps 0.8e-8
.ends
*-----------------------------------------------------------------------------------------*              d g s b v+
.subckt 114813 1 2 3 4 5 params: vtn=-1.3811
m1 1 2 3 4 ncg l=7.8e-6 w=138e-6 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                       nrd=0.3 nrs=1 nrg=25 nrb=35
.param vtx={vtn} cox=1.0 ires=0.41 pox=1.0 M=1
.model ncg  nmos  (level=2
+			 gamma=0.035 lot/4/uniform=-.22 dev/uniform=.04
+			 vto={vtn}   lot/2/uniform=.2   dev/uniform=19e-3
+             	 Uo=650      lot/3/uniform=40   dev/uniform=5
+             	 Ucrit=0.7e4 Uexp=.1 Vmax=1.6e5
+             	 phi=0.65 tpg=+1
+             	 nsub={1e16*ires} neff={10*ires} nss=0.7e11 nfs=4.4e11
+             	 tox=(0.055u*cox) lot/8/uniform=9.1% dev/uniform=.05%
+             	 Cgso={.94n*cox} Cgdo={.59n*cox} Cgbo={.138n*pox} Xqc=.42
+             	 cj=.39m cjsw=264p xj=1.0u
+			 ld=0.8u lot/uniform=.19 dev/uniform=.02 
+			 wd=1.05u lot/uniform=.42 dev/uniform=.1
+            	 pb=.9 js=20e-6  mj=.5 mjsw=0.18
+             	 kf=.75e-28 rsh=10 lot/1/uniform=4 dev/uniform=.5)
dbv 4 5 dps 0.8e-8
dbd 4 1 dps 0.8e-8
dbs 4 3 dps 0.8e-8
dbg 4 2 dps 0.8e-8
dgv 2 5 dps 0.8e-8
.ends
*-----------------------------------------------------------------------------------------*              d g s b v+
.subckt 114835 1 2 3 4 5 params: vtn=-3.5811
m1 1 2 3 4 ncg l=7.8e-6 w=138e-6 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                       nrd=0.3 nrs=1 nrg=25 nrb=35
.param vtx={vtn} cox=1.0 ires=0.41 pox=1.0 M=1
.model ncg  nmos  (level=2
+			 gamma=0.035 lot/4/uniform=-.22 dev/uniform=.04
+			 vto={vtn}   lot/2/uniform=.2   dev/uniform=19e-3
+             	 Uo=650      lot/3/uniform=40   dev/uniform=5
+             	 Ucrit=0.7e4 Uexp=.1 Vmax=1.6e5
+             	 phi=0.65 tpg=+1
+             	 nsub={1e16*ires} neff={10*ires} nss=0.7e11 nfs=4.4e11
+             	 tox=(0.055u*cox) lot/8/uniform=9.1% dev/uniform=.05%
+             	 Cgso={.94n*cox} Cgdo={.59n*cox} Cgbo={.138n*pox} Xqc=.42
+             	 cj=.39m cjsw=264p xj=1.0u
+			 ld=0.8u lot/uniform=.19 dev/uniform=.02 
+			 wd=1.05u lot/uniform=.42 dev/uniform=.1
+            	 pb=.9 js=20e-6  mj=.5 mjsw=0.18
+             	 kf=.75e-28 rsh=10 lot/1/uniform=4 dev/uniform=.5)
dbv 4 5 dps 0.8e-8
dbd 4 1 dps 0.8e-8
dbs 4 3 dps 0.8e-8
dbg 4 2 dps 0.8e-8
dgv 2 5 dps 0.8e-8
.ends
*-----------------------------------------------------------------------------------------*              d g s b v+
.subckt 11xxyy 1 2 3 4 5 params: vtn=0.0
m1 1 2 3 4 ncg l=7.8e-6 w=138e-6 as=0.603e-8 ps=0.478e-3 ad=0.161e-8
+                       nrd=0.3 nrs=1 nrg=25 nrb=35
.param vtx={vtn} cox=1.0 ires=0.41 pox=1.0 M=1
.model ncg  nmos  (level=2
+			 gamma=0.035 lot/4/uniform=-.22 dev/uniform=.04
+			 vto={vtn}   lot/2/uniform=.2   dev/uniform=19e-3
+             	 Uo=650      lot/3/uniform=40   dev/uniform=5
+             	 Ucrit=0.7e4 Uexp=.1 Vmax=1.6e5
+             	 phi=0.65 tpg=+1
+             	 nsub={1e16*ires} neff={10*ires} nss=0.7e11 nfs=4.4e11
+             	 tox=(0.055u*cox) lot/8/uniform=9.1% dev/uniform=.05%
+             	 Cgso={.94n*cox} Cgdo={.59n*cox} Cgbo={.138n*pox} Xqc=.42
+             	 cj=.39m cjsw=264p xj=1.0u
+			 ld=0.8u lot/uniform=.19 dev/uniform=.02 
+			 wd=1.05u lot/uniform=.42 dev/uniform=.1
+            	 pb=.9 js=20e-6  mj=.5 mjsw=0.18
+             	 kf=.75e-28 rsh=10 lot/1/uniform=4 dev/uniform=.5)
dbv 4 5 dps 0.8e-8
dbd 4 1 dps 0.8e-8
dbs 4 3 dps 0.8e-8
dbg 4 2 dps 0.8e-8
dgv 2 5 dps 0.8e-8
.ends
*
*
*-----------------------------------------------------------------------------------------
